US03996276
A solution of 1.75 g of 1,4,7,10-tetraazacyclododecane and 1.63 g of hexamethylphosphorous triamide in 50 ml of toluene is refluxed for 12 hours. Titration of the off-gases with 1 N HCl indicates that 97% of the theoretical amount of dimethylamine is evolved in this time. The toluene is removed under reduced pressure to give 2.0 g of 1,4,7,10-tetraaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane as a white solid which melts at 109°-111° C with sintering from 90° C (possibly because of the presence of a trace of toluene). Sublimation of this product at 75° C and 0.55 mm gives large colorless crystals, which melt at 111°-113° C. The mass spectrum shows an M+ ion at 200; measured mass, 200.1194; calc'd, 200.1190.

reactant | 1,4,7,10-tetraazacyclododecane | 1.75 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | hexamethylphosphorous triamide | 1.63 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
reactant | HCl | 1 N | Cl | ClH
reactant | dimethylamine | CNC | C2H7N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4,7,10-tetraaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane | 2.0 g | N12CCN3CCN(CCNCC1)P23 | C8H17N4P
